US09227967B2
N-Methoxy-N-methyloxane-4-carboxamide
N,O-Dimethylhydroxylamine hydrochloride (1.23 g, 12.7 mmol) and N-methylmorpholine (3.80 mL, 34.5 mmol) were dissolved in DCM (20 mL) and a solution of oxane-4-carbonyl chloride (1.71 g, 11.5 mmol) in DCM (20 mL) was added drop-wise. The reaction mixture was stirred for 2 h, then diluted to 200 mL with DCM, washed with 1 M aq HCl (2×100 mL), 1M aq Na2CO3 (100 mL) and water (100 mL), dried (MgSO4) and concentrated in vacuo to give the crude title compound as a yellow oil (1.87 g, 94%). LCMS (ES+): 174.1 (M+H)+.

reactant | N,O-Dimethylhydroxylamine hydrochloride | 12.7 mmol, 1.23 g | Cl.CNOC
reactant | N-methylmorpholine | 34.5 mmol, 3.80 mL | CN1CCOCC1 | C5H11NO
reactant | oxane-4-carbonyl chloride | 11.5 mmol, 1.71 g | O1CCC(CC1)C(=O)Cl | C6H9ClO2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-Methoxy-N-methyloxane-4-carboxamide | 1.87 g, 94% | CON(C(=O)C1CCOCC1)C | C8H15NO3
